2131-10-22 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   67 y/o M w/ ischemic cardiomyopathy, EF of 20%, refractory VT ablation,
   CAD s/p MI
[**03**], who presented with SOB and acute CHF
   24 Hour Events:
   Episodes of VT with increased dobutamine dose, subsequently turned
   off.  Diuresed well, lasix gtt turned off.  Renal Consulted.
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-22**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 60 (60 - 81) bpm
   BP: 112/65(76) {93/56(66) - 113/75(84)} mmHg
   RR: 12 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 69 Inch
             Total In:
                                                                  1,096 mL
                                                                    217 mL
   PO:
                                                                    470 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    626 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  5,130 mL
                                                                    590 mL
   Urine:
                                                                  5,130 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,034 mL
                                                                   -373 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen: Cachectic male, fatigued appearing, conversing in full sentences
   Neck: JVP 10cm
   Pulm: Rales in Bilateral lower lobes, decreased sounds on right
   Cards: S1 & S2 regular without murmur
   Abd: Soft, mildly distended, tympanitic, non-tender, no
   rebound/guarding
   Ext: B upper extremity edema. R BKA, stump with no open wounds or
   erythema. Wound on L foot, healing well. 1+ DP on L foot.
   Neuro: AAO x3
   Labs / Radiology
   336 K/uL
   12.1 g/dL
   86 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.4 mEq/L
   81 mg/dL
   99 mEq/L
   139 mEq/L
   37.5 %
   20.9 K/uL
        [image002.jpg]
                            [**2131-10-20**]  06:04 AM
                            [**2131-10-20**]  09:23 PM
                            [**2131-10-21**]  06:02 AM
                            [**2131-10-22**]  06:00 AM
   WBC
   20.2
   20.6
   20.9
   Hct
   37.7
   37.0
   37.5
   Plt
   371
   354
   336
   Cr
   1.9
   2.1
   2.2
   TropT
   0.38
   Glucose
   85
   86
   Other labs: PT / PTT / INR:18.2/61.4/1.7, CK / CKMB /
   Troponin-T:36//0.38, Lactic Acid:0.9 mmol/L, Ca++:7.7 mg/dL, Mg++:2.2
   mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   67 year old gentleman with h/o ischemic cardiomyopathy EF 20%,
   Refractory VT s/p ablation, CAD s/p MI'[**03**], who presented from rehab
   with increasing SOB c/w acute on chronic heart failure.
   .
   #PUMP/ CHF exacerbation: CXR with effusions (right >left) and left
   likely loculated fluid per CT. Clinical exam reveals bilateral basilar
   crackles, JVD 12-13cm and peripheral edema all consistent with volume
   overload. BNP 55,260 (previous BNP 22,000).
   Poor EF of 20% with ischemic cardiomayopathy.  SBPs in 90-114 range now
   so relatively low flow state continues.
   - Increase Dobutamine drip to 7.5mcg/hr, goal MAP>55 to avoid any
   hypoperfusion, especially renal perfusion as Cr/BUN worsening
   -Pressor/Dobutamine for BP control as above and Lasix gtt down to
   5mg/hour for now
   -Goal negative 1L over 24hrs
   -continue 1 L fluid restriction
   -Hold Metoprolol given low BP
   -cath in place now, strict I/Os
   -d/c Lyrica as can contribute to edema/fluid retention state
   .
   # Rhythm: Patient has a history of refractory VT s/p ablation on recent
   admission (after sepsis) and hx of a-fib ablation too.  Currently V
   paced with occasional PVCs.
   - plan to increase pacemaker rate/re-program to 70bpm for better
   cardiac output in face of hypoperfusion risks and poor BPs
   - Continue Mexilitine 200mg PO Q8
   - Continue Amiodarone 200mg PO Q8
   .
   #CAD-Known single valve disease now, first set of CE Trop 0.35 which
   was attributed to CRF.
   - Holding BB
   -Continue statin
   -consider restart ASA prior to d/c (later)
   .
   # Dyspnea : improving, oxygen saturations are 96-97% on room air. CHF
   exacerbation with additional pleural effusion contributing to shortness
   of breath. CT Chest shows large right effusion and loculated small left
   effusion.
   -plan for thoracentesis of R sided effusion over next 48hrs once INR
   down to 1.4-1.5 range and once AMS improves
   -cont to hold Lovenox
   -sent collected pleural fluid for diagnostic cultures/stains/cytology
   given high WBC and possible infection
   .
   AMS- patient very somnolent last night and this morning. Dose of
   Oxycodone decreased to 10mg q12hrs. Avoid any benzos, morphine or
   Ambien for now. Will d/c Lyrica as patient has impaired renal
   metabolism w/ prolonged effects of drug that may be worsening his
   mental status.
   .
   #Constipation: Patient reported constipation on admission which has
   since resolved. Hx of short gut syndrome.
   - Psyllum Wafers
   - Continue [**Name (NI) 1267**], [**Name (NI) **], MOM
   - continue cholestyramine
   .
   #CRI : Patient has a history of CRI, currently Cr 2.2 and BUN 81 (Cr up
   from  baseline 1.6-1.8)
   -increase Dobutamine as above to improve perfusion to kidneys
   -reprogram pacemaker with increased HR to 70bpm for better CO
   -monitor Cr/BUN
   -f/u pm lytes while diuresing
   -f/up Fe-Urea calculations once pending urine lytes return.
   -Renal consult for uremia concerns and rising BUN/Cr
   .
   #Hyperphosphatemia- likely a consequence of his CKD which is probably
   underestimated by his creatinine in the setting of cachexia. Repleted
   today
   .
   #DMII: Will continue home dose NPH, ISS
   .
   .
   # Leukocytosis: Patient has a history of leukocytosis as a consequence
   of MDS. Afebrile. UA showed no infection, no dysuria now. No cough or
   URI sx despite effusions on CT. F/up urine culture, final blood
   cultures
   .
   # Hypercoagulability Disorder: Holding Lovenox while awaiting INR
   decrease for thoracentesis, continue heparin gtt
   .
   #Depression: Continue Citalopram 40mg PO Qday, consider psych consult
   once stabilizes/less lethargic. SW Consult to address family/patient
   coping for now and some general feelings about goals of care at this
   juncture
   .
   #FEN: NPO
   #PPX: Heparin gtt, Ranitidine
   #Code: Full
   #Communication- [**Name (NI) 3848**] [**Name (NI) 5723**] (wife) [**Telephone/Fax (1) 6184**]
   #Dispo:  CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-10-21**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-24 06:25:00 Physician Resident Progress Note
TITLE:TITLE:
   Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2131-10-23**] 05:38 PM with 2.1 L fluid.  Stopped for
   low pleural pressure, < -20 cm.
   Lasix gtt stopped post thorocentesis as he was -1.3 L.
    Dr. [**Last Name (STitle) 616**] [**Name (NI) 420**] regarding ASA, which was held for bleed.
   Tele: No significant events
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-10-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-24**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 72 (60 - 83) bpm
   BP: 95/61(68) {92/17(48) - 132/74(80)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 48.5 kg (admission): 57.2 kg
   Height: 69 Inch
             Total In:
                                                                  1,399 mL
                                                                     67 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                    319 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  4,790 mL
                                                                    230 mL
   Urine:
                                                                  2,690 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
                                                                  2,100 mL
   Balance:
                                                                 -3,391 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Gen: Cachectic male, fatigued appearing, conversing in full sentences
   Neck: JVP 10cm
   Pulm: Rales in Bilateral lower lobes, decreased sounds on right
   Cards: S1 & S2 regular without murmur  RRR
   Abd: Soft, mildly distended, tympanitic, non-tender, no
   rebound/guarding
   Ext: B upper extremity edema. R BKA, stump with no open wounds or
   erythema. Wound on L foot, healing well. 1+ DP on L foot.
   Neuro: AAO x3
   Labs / Radiology
   286 K/uL
   73 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   55 mg/dL
   101 mEq/L
   143 mEq/L
   41.7 %
   20.9 K/uL
        [image002.jpg]
   88% N 4% L 5% M 3%E
   Pleural fluid: LDH 124, protein 2.2, pH 7.57
   PTT 75.3  INR 1.6t
                            [**2131-10-20**]  06:04 AM
                            [**2131-10-20**]  09:23 PM
                            [**2131-10-21**]  06:02 AM
                            [**2131-10-22**]  06:00 AM
                            [**2131-10-22**]  05:00 PM
                            [**2131-10-22**]  08:37 PM
                            [**2131-10-23**]  06:20 AM
                            [**2131-10-24**]  05:31 AM
   WBC
   20.2
   20.6
   20.9
   23.3
   Hct
   37.7
   37.0
   37.5
   41.1
   Plt
   371
   354
   336
   351
   Cr
   1.9
   2.1
   2.2
   1.8
   1.9
   1.7
   1.6
   TropT
   0.38
   Glucose
   85
   86
   83
   141
   195
   102
   73
   Other labs: PT / PTT / INR:17.4/75.3/1.6, CK / CKMB /
   Troponin-T:36//0.38, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL, LDH:412
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   CXR: Marked interval improvement, no pneumothorax
   Assessment and Plan
   67 year old gentleman with h/o ischemic cardiomyopathy EF 20%,
   Refractory VT s/p ablation, CAD s/p MI'[**03**], who presented from rehab
   with increasing SOB c/w acute on chronic heart failure.
   .
   #PUMP/ CHF exacerbation: CXR with effusions (right >left) and left
   likely loculated fluid per CT. On admission, clinical exam revealed
   bilateral basilar crackles, JVD 12-13cm and peripheral edema all
   consistent with volume overload.
   -Will resume lasix drip today at rate of 5 mg/hr with goal negative 1L
   over 24 hours.
   -continue 1 L fluid restriction
   -Continue to hold Metoprolol given low BP
   -foley for I/O measuring
   .
   # Rhythm: h/o VF (s/p ablation) and afib, no episodes since admission
   - V paced
   - Continue Mexilitine and Amiodarone
   .
   #CAD: h/o MI. Per PCP, [**Name10 (NameIs) **] history of bleed while on lovenox and ASA.
   -BB initially held, will restart prior to discharge
   -Continue statin
   -hold ASA
   .
   # Dyspnea : Symptomatically improved post thoracentesis with interval
   partial resolution of effusion on CXR. He had a thorocentesis on [**10-23**]
   with 2.1 L serous fluid removed, LDH and protein consistent with
   transudate.
   -cont to hold Lovenox, was on hep drip but also held for procedure
   -attempt to wean O2 as tolerated
   .
   AMS- at baseline, avoiding psychotropic drugs including Lyrica and high
   dose Oxycodone
   .
   #Diarrhea: Had 7 BMs on [**10-22**] after colace. Sending CDiff.
   - Contipated at baseline requiring Psyllum, colace, senna, MOM,
   cholestyramine, will separate by 2 hours from other meds
   - h/o short gut syndrome [**1-27**] thrombotic event at superior mesenteric
   artery
   .
   #CRI : Baseline Cr 1.6-1.8, now returned to baseline with diuresis. Had
   peaked at 2.2
   - renal following
   .
   #Hyperphosphatemia- likely a consequence of his CKD
   .
   #DMII: Well controlled on home dose NPH, ISS
   .
   # Leukocytosis: Secondary to MDS, no signs of infection (afebrile, UA
   neg, no cough or URI sx). Diff with neutrophil dominance but no early
   forms. Urine and blood cultures negative to date.
   - F/up urine culture, final blood cultures
   .
   # Hypercoagulability Disorder:
   - Coumadin failure, on Lovenox at home. Now s/p thoracentesis with no
   plan for further procedure.
   - Will transition from heparin to lovenox.
   .
   #Depression: Continue Citalopram 60mg PO Qday.
   .
   #FEN: Low sodium diet, lytes prn, no IVF, 1L fluid restriction
   #PPX: Heparin gtt, Ranitidine
   #Code: Full
   #Communication- [**Name (NI) 3848**] [**Name (NI) 5723**] (wife) [**Telephone/Fax (1) 6184**]
   #Dispo: CCU for now, plan for d/c to rehab in the next few days
   Active Medications [**Known lastname **],[**Known firstname 6231**]
   1. IV access: Peripheral line Order date: [**10-19**] @ 2150
   14. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**10-19**] @ 1419
   2. IV access: Peripheral line Order date: [**10-19**] @ 2150
   15. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**10-19**] @ 2219
   3. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**10-19**] @ 2150
   16. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN
   for foley placement   Order date: [**10-20**] @ 2141
   4. Aluminum-Magnesium Hydrox.-Simethicone 15-30 mL PO QID:PRN  Order
   date: [**10-19**] @ 2150
   17. Lorazepam 0.5-1 mg PO HS:PRN Insomnia  Order date: [**10-19**] @ 2150
   5. Amiodarone 200 mg PO DAILY  Order date: [**10-19**] @ 2150
   18. Mexiletine 200 mg PO Q8H  Order date: [**10-19**] @ 2150
   6. Atorvastatin 10 mg PO DAILY  Order date: [**10-19**] @ 2150
   19. Miconazole 2% Cream 1 Appl TP [**Hospital1 **]  Order date: [**10-19**] @ 2150
   7. Cholestyramine 4 gm PO BID
   Separates from other meds 2 hours before and after  Order date: [**10-24**] @
   0837
   20. Milk of Magnesia 30 mL PO Q4H:PRN  Order date: [**10-19**] @ 2153
   8. Citalopram Hydrobromide 60 mg PO DAILY  Order date: [**10-23**] @ 1341
   21. Oxycodone SR (OxyconTIN) 10 mg PO Q12H
   Hold for Hr <50, RR<12  Order date: [**10-20**] @ [**2150**]
   9. Docusate Sodium 100 mg PO BID  Order date: [**10-19**] @ 2150
   22. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**10-19**] @
   1419
   10. Enoxaparin Sodium 50 mg SC Q12H  Order date: [**10-24**] @ 0822
   23. Psyllium Wafer 1 WAF PO BID
   Separate from other meds 2 hours before and after  Order date: [**10-24**] @
   0837
   11. FoLIC Acid 1 mg PO DAILY  Order date: [**10-19**] @ 2150
   24. Ranitidine 150 mg PO DAILY  Order date: [**10-19**] @ 2150
   12. Furosemide 10 mg/hr IV DRIP INFUSION  Order date: [**10-24**] @ 0822
   25. Sodium Chloride 0.9% Flush 3 mL IV PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-19**] @ 2150
   13. Hydrocodone-Acetaminophen [**12-27**] TAB PO Q6H:PRN Pain  Order date:
   [**10-19**] @ 2150
   26. Sodium Chloride 0.9% Flush 3 mL IV PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-19**] @ 2150